US07622494B2
(1S)-6-Methyl-N-[(1S)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt was prepared by separation of diastereomeric 6-methyl-N-[(1S)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine by SFC (Berger Amino, 8% methanol, 1500 psi, 40° C., 2 mL/min, retention time: 8.7 min.) The oil obtained was converted to the HCl salt to give a white solid. [α]25=−133.5 (c 0.20, MeOH); 1H-NMR (CD3OD): δ 7.63 (d, J=7.6 Hz, 2H), 7.55-7.46 (m, 3H), 7.29 (d, J=8.0 Hz, 1H), 7.27 (s, 1H), 7.02 (d, J=8.4 Hz, 1H), 4.75 (q, J=7.2 Hz, 1H), 4.43 (m, 1H), 2.85 (dt, J=16.4 Hz, J=4.0 Hz, 1H), 2.67 (dt, J=16.4 Hz, J=4.0 Hz, 1H), 2.40 (s, 3H), 2.11-1.96 (m, 4H), 1.71 (d, J=7.2 Hz, 3H); MS m/z 184 (M−121).

reactant | 6-methyl-N-[(1S)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine | CC=1C=C2C=3CCCC(C3NC2=CC1)N[C@@H](C)C1=CC=CC=C1 | C21H24N2
reactant | HCl | Cl | ClH
solvent | MeOH | CO | CH4O
product | (1S)-6-Methyl-N-[(1S)-1-phenylethyl]-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt | Cl.CC=1C=C2C=3CCC[C@@H](C3NC2=CC1)N[C@@H](C)C1=CC=CC=C1 | InChI=1S/C21H24N2.ClH/c1-14-11-12-19-18(13-14)17-9-6-10-20(21(17)23-19)22-15(2)16-7-4-3-5-8-16;/h3-5,7-8,11-13,15,20,22-23H,6,9-10H2,1-2H3;1H/t15-,20-;/m0./s1
